US09353107B2
Step-ii: 1-(4-(4-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperazin-1-yl) ethanone
A stirred solution of 3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-5-(4-(piperazin-1-yl)phenyl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine (100 mg, 0.157 mmol), triethylamine (47.8 mg, 0.473 mmol), DCM (3 ml) was added acetyl chloride (18.5 mg, 0.236 mmol) drop wise at 0° C. Reaction mass was gradually warmed to room temperature, reaction completed in an hour. Reaction mass was diluted with DCM and washed with water, dried over sodium sulfate and concentrated to give 98 mg (92.4% yield) of the titled compound. MS: m/z=677.2 (M+1).

reactant | 3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-5-(4-(piperazin-1-yl)phenyl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine | 0.157 mmol, 100 mg | FC=1C=C(CN2N=C(C(=C2C)C2=CN(C3=NC=C(C=C32)C3=CC=C(C=C3)N3CCNCC3)S(=O)(=O)C3=CC=C(C)C=C3)C)C=CC1 | C36H35FN6O2S
reactant | triethylamine | 0.473 mmol, 47.8 mg | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.236 mmol, 18.5 mg | C(C)(=O)Cl | C2H3ClO
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
product | 1-(4-(4-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperazin-1-yl) ethanone | 98 mg, 92.4% yield | FC=1C=C(CN2N=C(C(=C2C)C2=CN(C3=NC=C(C=C32)C3=CC=C(C=C3)N3CCN(CC3)C(C)=O)S(=O)(=O)C3=CC=C(C)C=C3)C)C=CC1 | C38H37FN6O3S
